US07161022B2
Synthesis of N-phenyl-(E)-4-(3-chloro-4-methoxyphenyl)-4-oxo-2-butenamide
Into a 500 ml four-neck flask were charged 66.9 g (0.682 mol) of maleic anhydride, 150 ml of chlorobenzene, 71.6 ml (0.546 mol) of diethyl sulfate, and 0.186 g (0.975 mmol) of copper iodide under a nitrogen atmosphere. Then, the whole was cooled to 10° C. or lower and 67.6 g (0.507 mol) of aluminum chloride was added thereto. While temperature was maintained at 10 to 15° C., 23.2 ml (0.195 mol) of 1-chloro-2-methoxybenzene was added dropwise, followed by 2 hours of reaction. After termination of the reaction was confirmed by HPLC analysis, the reaction solution was added dropwise to 200 ml of a 1N hydrochloric acid aqueous solution cooled to 0° C. to decompose excess aluminum chloride. After liquid separation, the organic layer was washed with 200 ml of a 10% sodium bicarbonate aqueous solution to remove excess maleic anhydride. Then, 13.3 g (0.143 mol) of aniline was added to the organic layer, followed by 4 hours of reflux while ethanol formed during the reaction was removed. After completion of the reaction, the solvent was removed by evaporation under reduced pressure and the residue was crystallized from 10 ml of ethanol to obtain 32.3 g (yield 52.5%) of the aimed compound. As a result of HPLC analysis, the purity was found to be 99.1%.

reactant | maleic anhydride | 0.682 mol, 66.9 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | diethyl sulfate | 0.546 mol, 71.6 ml | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | aluminum chloride | 0.507 mol, 67.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-chloro-2-methoxybenzene | 0.195 mol, 23.2 ml | ClC1=C(C=CC=C1)OC | C7H7ClO
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | aniline | 0.143 mol, 13.3 g | NC1=CC=CC=C1 | C6H7N
catalyst | copper iodide | 0.975 mmol, 0.186 g | [Cu](I)I
solvent | ethanol | C(C)O | C2H6O
solvent | chlorobenzene | 150 ml | ClC1=CC=CC=C1 | C6H5Cl
product | N-phenyl-(E)-4-(3-chloro-4-methoxyphenyl)-4-oxo-2-butenamide | 32.3 g, yield 52.5% | C1(=CC=CC=C1)NC(\C=C\C(=O)C1=CC(=C(C=C1)OC)Cl)=O | C17H14ClNO3
